US08557843B2
A 2-mL microwave vial was charged with 6-bromo-4-p-tolyl-aminoquinoline-3-carboxylic acid ethyl ester (0.100 mmol), Herrmann's palladacycle (trans-di(μ-acetato)-bis[o-(di-o-tolylphosphino)benzyl]dipalladium(II), 4.7 mg, 0.0050 mmol), [(t-Bu)3PH]BF4 (5.9 mg, 0.020 mmol), Mo(CO)6 (52.8 mg, 0.20 mmol), 1.5 equiv. of methylamine (2 M in THF) and dry THF (1.0 mL). Finally, DBU (1,8-Diazabicyclo[5.4.0]undec-7-ene, 0.045 μL, 0.30 mmol) was added and the vial was immediately capped with a Teflon septum and irradiated with microwaves for 5 min at 130° C. Volatiles were removed under reduced pressure and the residue purified by column chromatography to give ethyl 6-(methylcarbamoyl)-4-[(4-methylphenyl)amino]-quinoline-3-carboxylate.

reactant | 6-bromo-4-p-tolyl-aminoquinoline-3-carboxylic acid ethyl ester | 0.100 mmol | C(C)OC(=O)C=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)Br)N | C19H17BrN2O2
reactant | [(t-Bu)3PH]BF4 | 0.020 mmol, 5.9 mg | [B-](F)(F)(F)F.CC(C)(C)[PH+](C(C)(C)C)C(C)(C)C
reactant | methylamine | 2 M, 1.5 equiv. | CN | CH5N
reactant | DBU | 0.30 mmol, 0.045 μL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | THF | 1.0 mL | C1CCOC1 | C4H8O
catalyst | Herrmann's palladacycle | 0.0050 mmol, 4.7 mg | CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3[CH2-].CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3[CH2-].CC(=O)O.CC(=O)O.[Pd].[Pd]
product | ethyl 6-(methylcarbamoyl)-4-[(4-methylphenyl)amino]-quinoline-3-carboxylate | CNC(=O)C=1C=C2C(=C(C=NC2=CC1)C(=O)OCC)NC1=CC=C(C=C1)C | C21H21N3O3
